datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1[C:6]2([H:16])[H:17].[C:18](=[C:19]([C:20]([H:24])([H:25])[H:26])[H:23])([H:21])[H:22]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:24])[C:6]2([H:16])[H:17].[C:18](=[C:19]([C:20]([H:25])[H:26])[H:23])([H:21])[H:22],24.6856
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],30.0411
[C:0](#[N:1])[H:2].[H:3]>>[C:0]#[N:1].[H:2][H:3],102.9264
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:6]([C:7]([C:8](=[C:9]([H:14])[H:15])[H:13])[H:12])([H:10])[H:11])[H:3],26.1082
[C:0]([S:1][S:2][S:3][H:7])([H:4])([H:5])[H:6].[H:8]>>[C:0]([H:4])([H:5])[H:6].[S:1]([S:2][S:3][H:7])[H:8],21.3384
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([C:6]([C:7]([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18])[H:8],69.036
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([S:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([C:6]([H:9])([H:10])[H:11])([S:8][H:13])[H:12],33.8904
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5][H:6])[H:11])([H:9])[H:10])([H:7])[H:8],87.1946
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[C:33]([H:34])([H:35])[H:36]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[H:30][C:33]([H:34])([H:35])[H:36],29.928152
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:15]([C:14](=[C:13]([H:19])[H:20])[H:21])([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25],30.1248
[C:0]([O:1])([H:2])([H:3])[H:4].[C:5]([O:6][C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0](=[O:1])([H:3])[H:4].[H:2][C:5]([O:6][C:7]([H:10])([H:11])[H:12])([H:8])[H:9],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[O:19][O:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])[H:7].[H:8][O:19][O:20],0.0
[C:0]([C:1]([S:2][H:8])[C:3](=[S:4])[H:9])([H:5])([H:6])[H:7].[S:10]([c:11]1[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22])[H:17]>>[C:0]([C:1]([S:2][H:8])([C:3](=[S:4])[H:9])[H:17])([H:5])([H:6])[H:7].[S:10][c:11]1[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]1[H:22],60.668
[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:4])[H:3].[O:8][O:9][H:10]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:4])([H:3])[H:10].[O:8][O:9],0.0
[N:0]([O:1])([H:2])[H:3].[O:4][O:5][H:6]>>[N:0]([O:1][H:6])([H:2])[H:3].[O:4][O:5],-6.690216
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])([H:4])[C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21],66.8185
[C:0]([C:1]([S:2][H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])([H:10])[H:11].[S:18]([H:19])[H:20]>>[C:0]([C:1]([S:2][H:12])([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:19])([H:9])([H:10])[H:11].[S:18][H:20],24.2672
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:5][C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20],56.0656
